US07067517B2
Methyl-phenyl-carbamic acid 4-tert-butoxy-phenyl ester
The title compound was prepared from 4-tert-butoxy-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to flash chromatography (Quad 12/25, flash 12, dichloromethane) followed by a recrystallization from ethanol (41%, crystals). HPLC-MS m/z=300.3 (M+1), Rt: 4.7 min.

reactant | 4-tert-butoxy-phenol | C(C)(C)(C)OC1=CC=C(C=C1)O | C10H14O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl-phenyl-carbamic acid 4-tert-butoxy-phenyl ester | C(C)(C)(C)OC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C18H21NO3
